US08486984B2
8.4 4-Isopropyl-N-(2-propylaminomethyl-indan-4-yl)-benzenesulfonamide
N-[4-(4-Isopropyl-benzenesulfonylamino)-indan-2-ylmethyl]propionamide (0.30 g, 0.75 mmol) was dissolved in 10 mL of THF and 2.5 mL (26.1 mmol) of a borane-THF complex was introduced dropwise. The resulting mixture was stirred at reflux for 1 h. The solution was cooled, 3 mL of 2 N HCl was added slowly, and the mixture was stirred at reflux for 2 h. The cooled solution was quenched with water, then NaOH (2N) and extracted with ethyl acetate. The organic phase was dried over MgSO4, filtered, and the filtrate was evaporated in vacuo to give product as a white solid which was further purified by column chromatography using (dichloromethane-MeOH, 7-12%) to give an oil. The oil was dissolved in ethyl acetate and HCl (4M, dioxane) was added to give the product as a white solid (140 mg, 43%).

reactant | N-[4-(4-Isopropyl-benzenesulfonylamino)-indan-2-ylmethyl]propionamide | 0.75 mmol, 0.30 g | C(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C2CC(CC2=CC=C1)CNC(CC)=O | C22H28N2O3S
reactant | HCl | 2 N, 3 mL | Cl | ClH
reactant | HCl | 4M | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Isopropyl-N-(2-propylaminomethyl-indan-4-yl)-benzenesulfonamide | 140 mg, 43% | C(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C2CC(CC2=CC=C1)CNCCC | C22H30N2O2S
